US08748624B2
STEP A: 2′,3′-dichloro-[1,1′-biphenyl]-4-amine
The title compound was prepared as described in Example 76, STEP B, substituting 4-iodoaniline and 2,3-dichlorophenylboronic acid for 4-bromo-3-methylaniline and 4-chlorophenylboronic acid.

reactant | 2,3-dichlorophenylboronic acid | ClC1=C(C=CC=C1Cl)B(O)O | C6H5BCl2O2
reactant | 4-bromo-3-methylaniline | BrC1=C(C=C(N)C=C1)C | C7H8BrN
reactant | 4-chlorophenylboronic acid | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
product | 2′,3′-dichloro-[1,1′-biphenyl]-4-amine | ClC1=C(C=CC=C1Cl)C1=CC=C(C=C1)N | C12H9Cl2N
